US05817653
Example 3 (+/-)-Trans- 1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(3,4-methylenedioxyphenyl)-1-methyl-2H- 1-benzazepine-2-one
A solution of (+/-)-Trans-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(3,4-methylenedioxyphenyl)-2H-1-benzazepine-2-one (0.35 g, 1.03 mmol) in DMF (3 ml) was added to a mixture of sodium hydride (0.036 g, 1.2 mmol, 80% mineral oil dispersion) and the mixture stirred 1 h at ambient temperature. Methyl iodide (0.4 ml, 0.91 g, 6.43 mmol) in DMF (0.5 ml) was added and the mixture stirred 48 h at ambient temperature. The reaction was quenched in water (50 ml) and extracted with ethyl acetate (3×10 ml). The combined extracts were dried (MgSO4), filtered and the solvent removed at reduced pressure to give 0.40 g of crude product. Chromatography on silica gel with 30:70 ethyl acetate-hexane gave 0.335 g of the title compound as a viscous oil. The oil was treated with hexane and the resulting white solid collected and dried to give 0.226 g (62%) of the title compound; mp 125°-127°.

reactant | (+/-)-Trans-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(3,4-methylenedioxyphenyl)-2H-1-benzazepine-2-one | 1.03 mmol, 0.35 g | COC(=O)[C@@H]1C(NC2=C(C[C@H]1C1=CC3=C(C=C1)OCO3)C=CC=C2)=O | C19H17NO5
reactant | sodium hydride | 1.2 mmol, 0.036 g | [H-].[Na+]
reactant | Methyl iodide | 6.43 mmol, 0.4 ml, 0.91 g | CI | CH3I
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | (+/-)-Trans- 1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(3,4-methylenedioxyphenyl)-1-methyl-2H- 1-benzazepine-2-one | 0.335 g | COC(=O)[C@@H]1C(N(C2=C(C[C@H]1C1=CC3=C(C=C1)OCO3)C=CC=C2)C)=O | C20H19NO5
